US05106869
Sodium hydride (NaH) (50%, 6.12 g) suspended in tetrahydrofuran (THF) (60 ml) was added to a solution of 1,6-hexanediol (15.0 g) in THF (200 ml), and kept at 60° C. until gas evolution stopped. After cooling, a solution of methyl iodide (12 ml) in THF (35 ml) was added and kept overnight at room temperature. The crude product obtained after the usual work-up was chromatographed to give 6-methoxy-1-hexanol. Yield; 8.16 g.

reactant | Sodium hydride | 6.12 g | [H-].[Na+]
reactant | 1,6-hexanediol | 15.0 g | C(CCCCCO)O | C6H14O2
reactant | methyl iodide | 12 ml | CI | CH3I
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | THF | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 35 ml | O1CCCC1 | C4H8O
product | 6-methoxy-1-hexanol | COCCCCCCO | C7H16O2
